US05457104
EXAMPLE 16 7-(2,7-Diazabicyclo[3.3.0]octan-7-yl)-1-cyclopropyl-8-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
620 mg (2.3 mmol) of 1-cyclopropyl-7,8-difluoro-1,3-dihydro-4-oxo-3-quinolinecarboxylic acid together with 315 mg (2.8 mmol) of 2,7-diazabicyclo[3.3.0]octane and 0.51 g (4.6 mmol) of 1,4-diazabicyclo[2.2.21]octane are heated for two hours at 120° C. in 23 ml of dimethyl sulphoxide. All volatile components are removed under a high vacuum, and the residue is stirred thoroughly with acetonitrile and dried at approximately 100° C.

reactant | 1-cyclopropyl-7,8-difluoro-1,3-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.3 mmol, 620 mg | C1(CC1)N1CC(C(C2=CC=C(C(=C12)F)F)=O)C(=O)O | C13H11F2NO3
reactant | 2,7-diazabicyclo[3.3.0]octane | 2.8 mmol, 315 mg | C12NCCC2CNC1 | C6H12N2
solvent | dimethyl sulphoxide | 23 ml | CS(=O)C | C2H6OS
product | 7-(2,7-Diazabicyclo[3.3.0]octan-7-yl)-1-cyclopropyl-8-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C12NCCC2CN(C1)C1=CC=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O | C19H20FN3O3
